US07189741B2
This compound was prepared following the procedure described in example 13 (part B) starting with 11 g (40 mmol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 9.6 g (48 mmol) of 5-(2-chloro-ethoxy)-benzo[1,3]dioxole. The mixture was stirred at room temperature for 18 hours. After standard work-up and purification, 10.5 g (60% of yield) of 4-{1-[2-(benzo[1,3]dioxol-5-yloxy)-ethyl]-1H-indol-3-yl}-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 40 mmol, 11 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 5-(2-chloro-ethoxy)-benzo[1,3]dioxole | 48 mmol, 9.6 g | ClCCOC1=CC2=C(OCO2)C=C1 | C9H9ClO3
product | 4-{1-[2-(benzo[1,3]dioxol-5-yloxy)-ethyl]-1H-indol-3-yl}-piperidine-1-carboxylic acid ethyl ester | 10.5 g, 60% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOC1=CC2=C(OCO2)C=C1 | C25H28N2O5
